US06852863B2
To a solution of 2-methyl-2-p-tolyl-propionic acid ethyl ester (263 mg, 1.27 mmol) and N-bromosuccinimide (272 mg, 1.53 mmol) in CCl4 (15 mL) was added 1,1′-azobis(cyclohexanecarbonitrile) (15.5 mg, 0.06 mmol). The reaction was heated at reflux for 1 h and was diluted with water and CH2Cl2. The layers were separated and the aqueous layer was washed with CH2Cl2 (3×). The combined organic solutions were dried (MgSO4), filtered, and concentrated. Medium pressure chromatography (95:5 hexanes:EtOAc) provided 2-(4-bromomethyl-phenyl)-2-methyl-propionic acid ethyl ester (354 mg). 1H NMR (400 MHz, CDCl3) δ 7.31 (m, 4H), 4.47 (s, 2H), 4.10 (q, 2H), 1.54 (s, 6H), 1.17 (t, 3H).

reactant | 2-methyl-2-p-tolyl-propionic acid ethyl ester | 1.27 mmol, 263 mg | C(C)OC(C(C)(C1=CC=C(C=C1)C)C)=O | C13H18O2
reactant | N-bromosuccinimide | 1.53 mmol, 272 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | CCl4 | 15 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | water | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | 1,1′-azobis(cyclohexanecarbonitrile) | 0.06 mmol, 15.5 mg | N(=NC1(CCCCC1)C#N)C1(CCCCC1)C#N | C14H20N4
product | 2-(4-bromomethyl-phenyl)-2-methyl-propionic acid ethyl ester | 354 mg | C(C)OC(C(C)(C)C1=CC=C(C=C1)CBr)=O | C13H17BrO2
